US08017596B2
Diethyl 4-methyl-2oxa-pent-4-enylphosphonate (96)
Diethyl hydroxymethylphosphonate (3 g, 17.8 mmol, 1 eq) is dissolved in 50 ml of THF to which sodium hydride (0.43 g, 17.8 mmol, 1 eq) is added. 1-chloro-2-methylpropene (1.62 g, 17.8 mmol, 1 eq) is then added. After one hour under magnetic stirring, at ambient temperature and in a nitrogen atmosphere, hydrolysis is performed with 100 ml of water. Extraction is performed with ether (3×50 ml). The organic phases are collected, washed with 100 ml of a saturated sodium chloride solution and dried on sodium sulphate. After evaporation of the solvent, the residual oil obtained is purified by silica gel chromatography (Eluent=ethyl acetate).

reactant | Diethyl hydroxymethylphosphonate | 17.8 mmol, 3 g, 1 eq | OCP(OCC)(OCC)=O | C5H13O4P
reactant | sodium hydride | 17.8 mmol, 0.43 g, 1 eq | [H-].[Na+]
reactant | 1-chloro-2-methylpropene | 17.8 mmol, 1.62 g, 1 eq | ClC=C(C)C | C4H7Cl
reactant | water | 100 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Diethyl 4-methyl-2oxa-pent-4-enylphosphonate | CC(COCP(OCC)(OCC)=O)=C | C9H19O4P
